US04710575
6.56 g (20.0 mmol) of trisneopentyl indium was reacted with 2.21 g (9.99 mmol) of indium chloride in refluxing diethyl ether for 48 hours to form bisneopentyl indium chloride. The resulting solution was filtered and then reacted with 30 mmol of methyl lithium (17.6 ml, 1.7M solution of diethyl ether) at 0° C. The methyl lithium solution was slowly added with stirring over a 10 minute time period. After the reaction mixture had stirred for 2 hours, the diethyl ether was removed by vacuum distillation. The product methyl bisneopentyl indium was separated from lithium chloride by extraction and filtration using 30 ml of pentane. Removal of pentane left a clear liquid product. In order to insure that the last traces of solvents (diethyl ether or pentane) and been removed, the sample was continuously evacuated for 3 hours at room temperature. Further purification was achieved by a vacuum distillation using a bath temperature of 80° C. and a head temperature of 55° C. The final purified product methyl bisneopentyl indium (3.35 g, 12.3 mmol) was isolated in 61.6% yield based on trisneopentyl indium.

reactant | trisneopentyl indium | 20.0 mmol, 6.56 g | C(C(C)(C)C)[In](CC(C)(C)C)CC(C)(C)C
reactant | indium chloride | 9.99 mmol, 2.21 g | [Cl-].[In+3].[Cl-].[Cl-]
solvent | diethyl ether | C(C)OCC | C4H10O
product | bisneopentyl indium chloride | 61.6% yield | [Cl-].C(C(C)(C)C)[In+]CC(C)(C)C | InChI=1S/2C5H11.ClH.In/c2*1-5(2,3)4;;/h2*1H2,2-4H3;1H;/q;;;+1/p-1
